US09062070B2
Step E: (3R,9aS)-tert-butyl 3-(3-cyano-4-fluoro-2-methylphenyl)hexahydro-1H-pyrazino[1,2-a]pyrazine-2(6H)-carboxylate
To a solution of (3R,9aS)-8-benzyl 2-tert-butyl 3-(3-cyano-4-fluoro-2-methylphenyl)tetrahydro-1H-pyrazino[1,2-a]pyrazine-2,8(9H,9aH)-dicarboxylate (600 mg, 1.180 mmol) in MeOH (100 mL) was added Palladium on carbon (10%, 126 mg, 0.118 mmol) and the resulting mixture was subjected to hydrogenation at rt overnight. The reaction mixture was filtered through Celite, washed with mixture of methanol and methylene chloride (1:1) and the filtrate was concentrated to give the title compound: LC/MS: (M+1)+: 375.28.

reactant | (3R,9aS)-8-benzyl 2-tert-butyl 3-(3-cyano-4-fluoro-2-methylphenyl)tetrahydro-1H-pyrazino[1,2-a]pyrazine-2,8(9H,9aH)-dicarboxylate | 1.180 mmol, 600 mg | C(#N)C=1C(=C(C=CC1F)[C@H]1N(C[C@H]2N(C1)CCN(C2)C(=O)OCC2=CC=CC=C2)C(=O)OC(C)(C)C)C | C28H33FN4O4
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Palladium on carbon | 0.118 mmol, 126 mg | [Pd] | Pd
product | (3R,9aS)-tert-butyl 3-(3-cyano-4-fluoro-2-methylphenyl)hexahydro-1H-pyrazino[1,2-a]pyrazine-2(6H)-carboxylate | C(#N)C=1C(=C(C=CC1F)[C@H]1N(C[C@H]2N(C1)CCNC2)C(=O)OC(C)(C)C)C | C20H27FN4O2
